US09382228B2
A solution of 6-amino-2-(trifluoromethyl)pyridin-3-ol (0.092 g, 0.517 mmol) in DMA (5 mL) was sparged with Ar, treated with potassium t-butoxide (0.087 g, 0.775 mmol), stirred for 1 minute, treated with 2,4-dichloropyridine (0.092 g, 0.620 mmol), flushed with Ar and heated at 95° C. overnight. The mixture was cooled to RT, treated with EtOAc, washed with satd. NaHCO3 (2×), dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford 5-((2-chloropyridin-4-yl)oxy)-6-(trifluoromethyl)pyridin-2-amine (62 mg, 41%). 1H NMR (400 MHz, DMSO-d6): δ 8.27-8.24 (m, 1H), 7.52-7.49 (m, 1H), 7.04 (s, 1H), 6.94-6.91 (m, 1H), 6.76 (d, J=9.1 Hz, 1H), 6.66 (s, 2H); MS (ESI) m/z: 290.1 (M+H+).

reactant | 6-amino-2-(trifluoromethyl)pyridin-3-ol | 0.517 mmol, 0.092 g | NC1=CC=C(C(=N1)C(F)(F)F)O | C6H5F3N2O
reactant | potassium t-butoxide | 0.775 mmol, 0.087 g | CC(C)([O-])C.[K+]
reactant | 2,4-dichloropyridine | 0.620 mmol, 0.092 g | ClC1=NC=CC(=C1)Cl | C5H3Cl2N
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 5-((2-chloropyridin-4-yl)oxy)-6-(trifluoromethyl)pyridin-2-amine | 62 mg, 41% | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C(F)(F)F)N | C11H7ClF3N3O
